US06239131B1
Preparation of 1-(N-tert-butyl)carbamoylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.0 g) was suspended in toluene (25 ml), N-tert-butyl-2-bromoacetamide (1.14 g), 1N aqueous sodium hydroxide (15 ml) and tetra n-butylammonium bromide (90 mg) were added thereto, and the mixture was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture, separated. The aqueous layer was extracted with ethyl acetate, the ethyl acetate extract was combined with the former organic layer, and the combined extract was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, ether was added to the residue for trituration, collected by filtration, to thereby obtain 1.09 g of the title compound (Yield: 83.0%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.0 g | O=C1C(CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C | C20H29N3O3
reactant | N-tert-butyl-2-bromoacetamide | 1.14 g | C(C)(C)(C)NC(CBr)=O | C6H12BrNO
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra n-butylammonium bromide | 90 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(N-tert-butyl)carbamoylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.09 g, Yield: 83.0% | C(C)(C)(C)NC(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C)=O | C26H40N4O4
